US03941884
Preparation of 10, 11-epoxyundecenyl piperonyl ether
To a solution of 11.0 g. (0.036 mole) of 10-undecenyl piperonyl ether and 5.0 g. (0.036 mole) of sodium dihydrogen phosphate monohydrate in 100 ml. of dichloromethane, was added 7.6 g. (0.036 mole) of m-chloroperbenzoic and dissolved in 200 ml. of dichloromethane. After stirring at ambient temperature for 24 hours, the mixture was filtered and washed with an aqueous sodium bicarbonate solution. After drying the dichloromethane solvent was removed by evaporation. The crude product obtained in this way was purified by passing through a silica gel chromatographic column using first a 5% ether in hexane eluent and then a 50% ether in hexane eluent to recover the 10,11-epoxyundecenyl piperonyl ether which weighed 5 g. An infrared spectra had strong adsorption peaks at 3.4, 3.5, 6.7, 6.95, 7.9-8.0, 9.1, 9.6, 10.8 and 12.4 microns.

reactant | 10-undecenyl piperonyl ether | 0.036 mole | C(C1=CC=2OCOC2C=C1)OCCCCCCCCCC=C | C19H28O3
reactant | sodium dihydrogen phosphate monohydrate | 0.036 mole | O.P(=O)(O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 11-epoxyundecenyl piperonyl ether | C(C1=CC=2OCOC2C=C1)OC=CCCCCCCCC1CO1 | C19H26O4
